US07384934B2
Add sodium hydride (0.558 g, 14.0 mmol) in portions to (S)-2-(2-hydroxyethyl)piperazine-1,4-dicarboxylic acid di-tert-butyl ester (3.075 g, 9.31 mmol) in dimethylformamide (60 mL) and stir for 15 minutes. Cool to 0° C. and add ethyl iodide (1.5 mL, 18.6 mmol) dropwise and stir at 0° C. After 30 minutes warm the mixture to room temperature and stir overnight. Dilute the mixture with ethyl acetate and wash the organics six times with brine. Dry over sodium sulfate and concentrate under reduced pressure to give (S)-2-(2-ethoxyethyl)-piperazine-1,4-dicarboxylic acid di-tert-butyl ester (3.17 g, 95%) as a yellow oil.

reactant | sodium hydride | 14.0 mmol, 0.558 g | [H-].[Na+]
reactant | (S)-2-(2-hydroxyethyl)piperazine-1,4-dicarboxylic acid di-tert-butyl ester | 9.31 mmol, 3.075 g | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)CCO | C16H30N2O5
reactant | ethyl iodide | 18.6 mmol, 1.5 mL | C(C)I | C2H5I
solvent | dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-2-(2-ethoxyethyl)-piperazine-1,4-dicarboxylic acid di-tert-butyl ester | 3.17 g, 95% | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)CCOCC | C18H34N2O5
